US06110929
Under a nitrogen atmosphere, 3-amino-7-fluoro-4-quinolinol hydrochloride (3.4 g, 19.1 mmol), triethylamine (2.9 mL, 21.0 mmol) and butyric anhydride (15.6 mL, 95.5 mmol) were combined and heated at reflux for about 18 hours. The reaction mixture was poured over ice and made basic to about pH 12 with 10% sodium hydroxide. The resulting suspension was stirred until all of the ice had melted then it was extracted with dichloromethane. The extract was dried over magnesium sulfate and then concentrated under vacuum to provide an oil. The oil was purified by column chromatography (silica gel eluting initially with dichloromethane and then with 9:1 dichloromethane:methanol) to provide 2.6 g of 7-fluoro-2-propyloxazolo[4,5-c]quinoline as a light brown solid.

reactant | 3-amino-7-fluoro-4-quinolinol hydrochloride | 19.1 mmol, 3.4 g | Cl.NC=1C=NC2=CC(=CC=C2C1O)F
reactant | triethylamine | 21.0 mmol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | butyric anhydride | 95.5 mmol, 15.6 mL | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 7-fluoro-2-propyloxazolo[4,5-c]quinoline | 2.6 g | FC=1C=CC=2C3=C(C=NC2C1)N=C(O3)CCC | C13H11FN2O
